US08802659B2
3-((2-((trans)-4-tert-butylcyclohexyloxy)quinolin-6-yl)methylamino)propanoic acid
A solution of 2-(4-tert-butyl-cyclohexyloxy)-quinoline-6-carbaldehyde (30.6 mg, 0.0983 mmol) and Beta-alanine (8.75 mg, 0.0983 mmol) in ethanol (0.7 mL, 10 mmol) was heated to reflux for 2 h. The yellow solution was cooled to rt and sodium cyanoborohydride (7.41 mg, 0.118 mmol) was added and was heated to reflux for 1 h. After cooled down to rt, citric acid was added and concentrated down. The solid was suspended in water and filtrate, and the collected solid was washed thoroughly with water. HPLC purification of the solid give the product (7.5 mg, 15%). LCMS Rt=1.60 min m/z=385.49 [M+1]. 1H NMR (400 MHz, MeOD) δ=8.14 (d, J=8.8 Hz, 1H), 7.92 (s, 1H), 7.88 (d, J=8.7 Hz, 1H), 7.72 (d, J=10.7 Hz, 1H), 6.96 (d, J=8.8 Hz, 1H), 5.29-5.09 (m, 1H), 4.40 (s, 2H), 3.36 (t, J=5.8 Hz, 2H), 2.79 (t, J=6.7 Hz, 2H), 2.30 (d, J=10.9 Hz, 2H), 1.94 (d, J=12.9 Hz, 2H), 1.55-1.06 (m, 5H), 0.94 (s, 9H).

reactant | 2-(4-tert-butyl-cyclohexyloxy)-quinoline-6-carbaldehyde | 0.0983 mmol, 30.6 mg | C(C)(C)(C)C1CCC(CC1)OC1=NC2=CC=C(C=C2C=C1)C=O | C20H25NO2
reactant | Beta-alanine | 0.0983 mmol, 8.75 mg | NCCC(=O)O | C3H7NO2
reactant | ethanol | 10 mmol, 0.7 mL | C(C)O | C2H6O
reactant | sodium cyanoborohydride | 0.118 mmol, 7.41 mg | C(#N)[BH3-].[Na+]
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
product | 3-((2-((trans)-4-tert-butylcyclohexyloxy)quinolin-6-yl)methylamino)propanoic acid | 7.5 mg, 15% | C(C)(C)(C)[C@@H]1CC[C@H](CC1)OC1=NC2=CC=C(C=C2C=C1)CNCCC(=O)O | C23H32N2O3
